US04075202
2-Hydrazino-7-chloro-4,5-dihydro-5-phenyl-3H-1,5-benzodiazepin-4-one is heated with triethyl orthoformate and concentrated sulfuric acid. The mixture is stirred for 30 minutes to give 8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,5]benzodiazepine-5(6H)-one.

reactant | 2-Hydrazino-7-chloro-4,5-dihydro-5-phenyl-3H-1,5-benzodiazepin-4-one | N(N)C=1CC(N(C2=C(N1)C=CC(=C2)Cl)C2=CC=CC=C2)=O | C15H13ClN4O
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,5]benzodiazepine-5(6H)-one | ClC=1C=CC2=C(N(C(CC=3N2C=NN3)=O)C3=CC=CC=C3)C1 | C16H11ClN4O
